US05023351
Example of production of 15-hydroxy-12-ketopentadecanoic acid
0.279 g (1.00 millimole) of α-(11-cyanoundecanoyl)-γ-butyrolactone, 0.68 g (10.3 millimole) of 85 % potassium hydroxide and 5.66 g of water were charged and heated under reflux over 10 hours. After completion of the reaction, the system was cooled and made acidic by use of 5 ml of 4N-HCl, followed by extraction once from 70 ml of methylene chloride and two times from 20 ml of the same. After the methylene chloride solution was dried over sodium sulfate, concentration was conducted to dryness to obtain white solid. The obtained white solid was purified with use of a silicagel column by using n-hexane/ethyl acetate (1:1, volume ratio) as a developer to obtain 0.254 g (0.933 millimole, yield: 93 %) of a white solid.

reactant | α-(11-cyanoundecanoyl)-γ-butyrolactone | 1.00 millimole, 0.279 g | C(#N)CCCCCCCCCCC(=O)C1C(=O)OCC1 | C16H25NO3
reactant | potassium hydroxide | 10.3 millimole, 0.68 g | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | water | 5.66 g | O | H2O
product | 15-hydroxy-12-ketopentadecanoic acid | 0.933 millimole, 0.254 g, yield: 93 % | OCCCC(CCCCCCCCCCC(=O)O)=O | C15H28O4
